US07910592B2
To a solution of {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4-fluorophenyl}acetic acid (32.8 mg, 0.055 mmol) in THF (2 mL) was added BH3 (0.22 mL of a 1M solution in THF, 0.22 mmol). The reaction was stirred at room temperature for 1 hour and then quenched with water (2 mL). The reaction was diluted with EtOAc (35 mL) and washed with water and brine (10 mL each). The organic layer was dried (Na2SO4), filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 100% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-({6-cyclopropyl-3-[2-fluoro-5-(2-hydroxyethyl)phenyl]pyridin-2-yl}methyl)-4-methyl-1,3-oxazolidin-2-one. Rf=0.44 (25% EtOAc/hexanes). LCMS=583.4 (M+H)+ 1H NMR (500 MHz, CDCl3): δ 7.85 (s, 1H), 7.69 (s, 2H), 7.48 (d, J=7.8 Hz, 1H), 7.08-7.27 (m, 4H), 5.55 (d, J=7.8 Hz, 1H), 4.93 (bs, 1H), 3.82-4.10 (m, 4H), 2.85 (t, J=5.8 Hz, 2H), 2.08 (m, 1H), 1.02-1.06 (m, 4H), 0.71 (d, J=6.7 Hz, 3H).

reactant | {3-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-cyclopropylpyridin-3-yl]-4-fluorophenyl}acetic acid | 0.055 mmol, 32.8 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1F)CC(=O)O)C1CC1)C)(F)F | C29H23F7N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-({6-cyclopropyl-3-[2-fluoro-5-(2-hydroxyethyl)phenyl]pyridin-2-yl}methyl)-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C1=C(C=CC(=C1)CCO)F)C1CC1)C)(F)F | C29H25F7N2O3
